US08791132B2
To a solution of 2-allyl-2,3,4,5-tetrahydro-8-methyl-1H-pyrido[4,3-b]indole (1000 mg, 4.42 mmol) in DMF (10 mL) was portionwise added sodium hydride (526 mg, 13.26 mmol). After stirring at RT for 5 min., 4-(oxiran-2-yl)pyridine (669 mg, 5.31 mmol) was added dropwise into the reaction mixture, which was stirred at RT for 16 h. Ice water was added into the reaction mixture and the solid mass obtained was filtered, washed with water (2×10 mL), hexane (2×50 mL) and ether to yield 2-(2-allyl-1,2,3,4-tetrahydro-8-methylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethanol. 1H NMR (CDCl3, freebase) δ (ppm): 8.6 (d, 2H), 7.24 (s, 1H), 7.2 (d, 2H), 7.0 (d, 2H), 5.98 (m, 1H), 5.2 (dd, 2H), 5.0 (m, 1H), 4.1 (m, 2H), 3.6 (dd, 2H), 3.22 (d, 2H), 2.7-2.9 (m, 3H), 2.6 (m, 1H), 2.4 (s, 3H). Separation by chiral HPLC provides enantiomers II-63a-b.

reactant | 2-allyl-2,3,4,5-tetrahydro-8-methyl-1H-pyrido[4,3-b]indole | 4.42 mmol, 1000 mg | C(C=C)N1CC2=C(NC=3C=CC(=CC23)C)CC1 | C15H18N2
reactant | sodium hydride | 13.26 mmol, 526 mg | [H-].[Na+]
reactant | 4-(oxiran-2-yl)pyridine | 5.31 mmol, 669 mg | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2-allyl-1,2,3,4-tetrahydro-8-methylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethanol | C(C=C)N1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C2=CC=NC=C2)CC1 | C22H25N3O
